US06569863B1
(d). 4-Ethoxycarbonylmethyl-5-methyl-2-phenylimidazole
Hydrochloric acid in ethanol (35%, 150 ml) was added to 4-cyanomethyl-5-methyl-2-phenylimidazole (20.5 g) and heated to reflux temperature. After 1 h the reaction mixture was poured into water (400 ml) and NaOH was added (pH>8), followed by extraction with dichloromethane (3 times). The combined organic layers were dried over sodium sulfate and evaporated to dryness in vacuo.

reactant | Hydrochloric acid | Cl | ClH
reactant | 4-cyanomethyl-5-methyl-2-phenylimidazole | 20.5 g | C(#N)CC=1N=C(NC1C)C1=CC=CC=C1 | C12H11N3
reactant | water | 400 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Ethoxycarbonylmethyl-5-methyl-2-phenylimidazole | C(C)OC(=O)CC=1N=C(NC1C)C1=CC=CC=C1 | C14H16N2O2
